US07479558B2
4-Chloro-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8-(4-trifluoromethyl-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one
A solution of 4-Chloro-2-methylsulfinyl-8-(4-trifluoromethyl-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one (0.29 g, 0.75 mmol) in dichloromethane (30 mL) was mixed with a solution of serinol (0.075 g, 0.82 mmol) in DMF (0.75 mL). The resultant mixture was stirred at room temperature for 1 hour before concentrated under vacuum. Flash chromatography (EtOAc:Hexane, 3:1) then provided the title compound (0.14 g, 45%): MS (ES) m/z 415 (M+H)+; 1H-NMR(CDCl3) δ 2.25 (s, br, 2H), 3.66 (m, br, 5H), 6.15 (m, br, 1H), 6.55 (d, J=9.2 Hz, 1H), 7.36 (m, 2H), 7.81 (d, J=8.1 Hz, 2H), 7.92 (d, J=9.2 Hz, 1H).

reactant | 4-Chloro-2-methylsulfinyl-8-(4-trifluoromethyl-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.75 mmol, 0.29 g | ClC=1C2=C(N=C(N1)S(=O)C)N(C(C=C2)=O)C2=CC=C(C=C2)C(F)(F)F | C15H9ClF3N3O2S
reactant | serinol | 0.82 mmol, 0.075 g | NC(CO)CO | C3H9NO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8-(4-trifluoromethyl-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.14 g, 45% | ClC=1C2=C(N=C(N1)NC(CO)CO)N(C(C=C2)=O)C2=CC=C(C=C2)C(F)(F)F | C17H14ClF3N4O3
